US06329400B1
A solution of ethyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxyhexanoate (1.76 g, 6.38 mmol) in 30 mL of EtOAc is treated with 200 mg of 10% palladium on carbon. The resulting suspension is repeatedly evacuated and purged with a hydrogen balloon, then stirred under 1 atmosphere pressure of hydrogen gas for 6 h. The catalyst is filtered and the filtrate is concentrated in vacuo to provide ethyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoate as an oil (1.70 g, 96% yield).

reactant | ethyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxyhexanoate | 6.38 mmol, 1.76 g | C1(=CC=CC=C1)/C=C/C[C@@H](C(=O)OCC)[C@@H](CCC)O | C17H24O3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | ethyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoate | 1.70 g, 96% yield | C1(=CC=CC=C1)CCC[C@@H](C(=O)OCC)[C@@H](CCC)O | C17H26O3
